US06673797B1
(1) Preparation of 1-Benzenesulfonyl-5-methanesulfonyl-2-(3-pyridyl)indole
A mixture of 3-trimethylsilylethynylpyridine (1.07 g), 2-benzenesulfonylamino-3-iodo-5-methanesulfonylbenzene (1.75 g), potassium acetate (1.60 g), cuprous iodide (60 mg), dichlorobis(triphenylphosphine)palladium (0.20 g) and 1,4-dioxane (4 ml) was stirred at 100° C. for 12 hours under nitrogen atmosphere. To the reaction solution were added water and ethyl acetate. The insolubles were filtered off. The filtrate was extracted with ethyl acetate, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (hexane:ethyl acetate=1:3) to obtain 1.04 g of the desired product.

reactant | 3-trimethylsilylethynylpyridine | 1.07 g | C[Si](C)(C)C#CC=1C=NC=CC1 | C10H13NSi
reactant | 2-benzenesulfonylamino-3-iodo-5-methanesulfonylbenzene | 1.75 g | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C(C=C1I)S(=O)(=O)C | C13H12INO4S2
reactant | potassium acetate | 1.60 g | C(C)(=O)[O-].[K+]
reactant | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.20 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-Benzenesulfonyl-5-methanesulfonyl-2-(3-pyridyl)indole | 1.04 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)S(=O)(=O)C)C=1C=NC=CC1 | C20H16N2O4S2
